US07692005B2
6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-3-[1-[4-(4-methyl-piperazin-1-yl)-phenylamino]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one
A small screw cap test tube was charged with 6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-3-hydroxymethylene-1,3-dihydro-indol-2-one (prepared below, 0.045 g, 0.117 mmol) and THF (2 mL). To the resulting solution was added 4-(4-Methyl-piperazin-1-yl)-phenylamine (23 mg, 0.117 mmol), and the mixture was stirred for 24 h at 65° C. The reaction mixture was cooled to room temperature and the precipitate that formed was collected by filtration. The yellow solid was dissolved in 5 mL of a solvent mixture containing 98% EtOAc/2% i-prOH and washed with water (2×5 mL). The organic layers were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The crude residue was columned over silica (95/5, chloroform/Hexanes w/0.5% NEt3 to afford the title compound in 39% yield (26 mg, 0.045 mmol).

reactant | 6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-3-hydroxymethylene-1,3-dihydro-indol-2-one | 0.117 mmol, 0.045 g | CN1N=C(C=C1CNC=1C=C(C(=O)C2=CC=C3C(C(NC3=C2)=O)=CO)C=CC1)C | C22H20N4O3
reactant | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 0.117 mmol, 23 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-3-[1-[4-(4-methyl-piperazin-1-yl)-phenylamino]-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 39% yield | CN1N=C(C=C1CNC=1C=C(C(=O)C2=CC=C3/C(/C(NC3=C2)=O)=C/NC2=CC=C(C=C2)N2CCN(CC2)C)C=CC1)C | C33H35N7O2
